US09120777B2
G) tert-Butyl 4-(4-bromo-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate
Potassium tert-butoxide (7.09 g) was added at room temperature to a mixture of 4-bromopyridin-2(1H)-one (10 g) in DME (287 mL). The reaction mixture was stirred at room temperature for 10 minutes. Then, potassium carbonate (15.9 g) and tert-butyl 4-(((4-methylphenyl)sulfonyl)oxy)piperidine-1-carboxylate (37.8 g) were added thereto, and the mixture was stirred at 85 C for 1 day, at 95 C for 1 day, and at 100 C for 1 day in a nitrogen atmosphere. Saturated saline was added to the reaction mixture, followed by extraction with ethyl acetate twice. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (14.7 g).

reactant | Potassium tert-butoxide | 7.09 g | CC(C)([O-])C.[K+]
reactant | 4-bromopyridin-2(1H)-one | 10 g | BrC1=CC(NC=C1)=O | C5H4BrNO
reactant | potassium carbonate | 15.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-(((4-methylphenyl)sulfonyl)oxy)piperidine-1-carboxylate | 37.8 g | CC1=CC=C(C=C1)S(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C17H25NO5S
solvent | DME | 287 mL | COCCOC | C4H10O2
product | tert-Butyl 4-(4-bromo-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate | 14.7 g | BrC1=CC(N(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H21BrN2O3
